US07745641B2
In a similar manner to Step 4 of Example 16, 3-hydroxy-4,5-dichloro-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (347 mg, 0.750 mmol) was dissolved in nitromethane (14 mL), and the solution was treated with trifluoroacetic acid (0.867 mL, 11.3 mmol) and triethylsilane (0.240 mL, 1.50 mmol), followed by purification by slurry using chloroform to obtain 4,5-dichloro-7-iodoisoindolinone (182 mg, yield 74%).

reactant | 3-hydroxy-4,5-dichloro-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 0.750 mmol, 347 mg | OC1N(C(C2=C(C=C(C(=C12)Cl)Cl)I)=O)C(C)(C1=CC=CC=C1)C | C17H14Cl2INO2
reactant | trifluoroacetic acid | 11.3 mmol, 0.867 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 1.50 mmol, 0.240 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | nitromethane | 14 mL | [N+](=O)([O-])C | CH3NO2
product | 4,5-dichloro-7-iodoisoindolinone | 182 mg, yield 74% | ClC1=C2CNC(C2=C(C=C1Cl)I)=O | C8H4Cl2INO
